US05246948
Synthesis of 4-[3-(2-ethylhexanoylamino)propylthio]pyridine hydrochloride
To a solution of 800 mg (3.32 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 2.22 ml (15.9 mmol) of triethylamine in 30 ml of methylene chloride was added 0.69 ml (3.98 mmol) of 2-ethylhexanoyl chloride under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain 1.02 g of the desired compound (free base) (quant., pale yellow oil).

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 3.32 mmol, 800 mg | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 15.9 mmol, 2.22 ml | C(C)N(CC)CC | C6H15N
reactant | 2-ethylhexanoyl chloride | 3.98 mmol, 0.69 ml | C(C)C(C(=O)Cl)CCCC | C8H15ClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-ethylhexanoylamino)propylthio]pyridine hydrochloride | 1.02 g | Cl.C(C)C(C(=O)NCCCSC1=CC=NC=C1)CCCC | InChI=1S/C16H26N2OS.ClH/c1-3-5-7-14(4-2)16(19)18-10-6-13-20-15-8-11-17-12-9-15;/h8-9,11-12,14H,3-7,10,13H2,1-2H3,(H,18,19);1H
